US07973169B2
32) N-(6-Ethoxy-benzothiazol-2-yl)-2-phenyl-butyramide
6-Ethoxy-benzothiazol-2-ylamine (39 mg, 0.20 mmol) and 2-phenyl-butyric acid (33 mg, 0.20 mmol) were dissolved in N,N-dimethylformamide (1 mL) containing triethylamine (84.1 μL, 0.600 mmol). O-(7-Azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (84 mg, 0.22 mmol) was added and the solution was allowed to stir for 16 hours. The crude product was purified by reverse-phase preparative liquid chromatography (17 mg, 0.050 mmol, 25%). ESI-MS m/z calc. 340.1, found 340.9 (M+1)+ Retention time 3.55 minutes.

reactant | 6-Ethoxy-benzothiazol-2-ylamine | 0.20 mmol, 39 mg | C(C)OC1=CC2=C(N=C(S2)N)C=C1 | C9H10N2OS
reactant | 2-phenyl-butyric acid | 0.20 mmol, 33 mg | C1(=CC=CC=C1)C(C(=O)O)CC | C10H12O2
reactant | triethylamine | 0.600 mmol, 84.1 μL | C(C)N(CC)CC | C6H15N
reactant | O-(7-Azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 0.22 mmol, 84 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | N-(6-Ethoxy-benzothiazol-2-yl)-2-phenyl-butyramide | C(C)OC1=CC2=C(N=C(S2)NC(C(CC)C2=CC=CC=C2)=O)C=C1 | C19H20N2O2S
